US05998434
3-Butylthio-4-hydroxy-1,2,5-thiadiazole
(+/-)-3-butylthio-4-(azabicyclo[2.2.2]octyl-3-oxy)-1,2,5-oxadiazole, (+/-)-3-(2-butyloxy)-4-[(+/-)-3-azabicyclo[2.2.2]octyloxy)-1,2,5-oxadiazole, (+/-)-3-butyloxy-4-[endo-(+/-)-6-[1-azabicyclo[3.2.1]octyloxy)]-1,2,5-oxadiazole, 3-(2,2,3,3,4,4,4-heptaflurorobutyloxy)-4-[(+/-)-3-(1-azabicyclo[2.2.2]octyloxy)]-1,2,5-oxadiazole, 3-methoxy-4-(1-azabicyclo[2.2.2]octyl-3-oxy)-1,2,5-oxadiazole, 3-pentylthio-4-(1-azabicyclo[2.2.2]ocytl-3-oxy)-1,2,5-oxadiazole, trans-3-butyloxy-4-(2-dimethylaminocyclopentyloxy)-1,2,5-oxadiazole, 3-butylthio-4-(3-azetidinyloxy)-1,2,5-oxadiazole, 3-(3-N-(2-thiazolidonyl)propylthio)-4-(1-azabicyclo[2.2.2]octyl-3-oxy)-1,2,5-oxadiazole, 3-chloro-4-(1-azabicyclo[3.2.1]octyl-6-oxy)-1,2,5-oxadiazole, 3-(2-2-thio-5-trifluoromethylthienyl)ethylthio)-4-azabicyclo[2.2.2]octyl-3-oxy)-1,2,5-oxadiazole, 3-butylthio-4-[3-±-endo-(1-azabicyclo[2.2.1]heptyloxy)]-1,2,5-oxadiazole, 3-hexyloxy-4-[6-±-endo-(2-azabicyclo[2.2.2]ocyloxy)]-1,2,5-oxadiazole,3-(4,4,4-trifluorobutylthio)-4-[2-±-exo-(7-azabicyclo[2.2.1]heptyloxy)]-1,2,5-oxadiazole, 3-(2-phenoxyethylthio)-4-[3-±-endo-(1-azabicyclo[3.2.1]octyloxy)]-1,2,5-oxadiazole, 3-(5-hexenyloxy)-4-[7-±-endo-(2-azabicyclo[2.2.1]heptyloxy)]-1,2,5-oxadiazole, 3-butyl-4-[5-(1-azabicyclo[3.2.1]octyloxy)]-1,2,5-oxadiazole, 3-cyclobutylmethyl-4-[2-i-endo-(8-azabicyclo[3.2.1]octyloxy)]-1,2,5-oxadiazole, (+/-)-3-butylthio-4-(azabicyclo[2.2.2]octyl-3-oxy)-pyrazine, (+/-)-3-(2-butyloxy)-4-[(+/-)-3-azabicyclo[2.2.2]octyloxy)-pyrazine, (+/-)-3-butyloxy-4-[endo-(+/-)-6-[1-azabicyclo[3.2.1]octyloxy)]-pyrazine, 3-(2,2,3,3,4,4,4-heptaflurorobutyloxy)-4-[(+/-)-3-(1-azabicyclo[2.2.2]octyloxy)]-pyrazine, 3-methoxy-4-(1-azabicyclo[2.2.2]octyl-3-oxy)-pyrazine, 3-pentylthio-4-(1-azabicyclo[2.2.2]ocytl-3-oxy)-pyrazine, trans-3-butyloxy-4-(2-dimethylaminocyclopentyloxy)-pyrazine, 3-butylthio-4-(3-azetidinyloxy)-pyrazine, 3-(3-N-(2-thiazolidonyl)propylthio)-4-(1-azabicyclo[2.2.2]octyl-3-oxy)-pyrazine, 3-chloro-4-(1-azabicyclo[3.2.1]octyl-6-oxy)-pyrazine, 3-(2-2-thio-5-trifluoromethylthienyl)ethylthio)-4-azabicyclo[2.2.2]octyl-3-oxy)-pyrazine, 3-butylthio-4-[3-+-endo-(1-azabicyclo[2.2.1]heptyloxy)]-pyrazine, 3-hexyloxy-4-[6-±-endo-(2-azabicyclo[2.2.2]ocyloxy)]-pyrazine, 3-(4,4,4-trifluorobutylthio)-4-[2-±-exo-(7-azabicyclo[2.2.1]heptyloxy)]-pyrazine, 3-(2-phenoxyethylthio)-4-[3-±-endo-(1-azabicyclo[3.2.1]octyloxy)]-pyrazine, 3-(5-hexenyloxy)-4-[7-±-endo-(2-azabicyclo[2.2.1]heptyloxy)]-pyrazine, 3-butyl-4-[5-(1-azabicyclo[3.2.1]octyloxy)]-pyrazine, and 3-cyclobutylmethyl-4-[2-±-endo-(8-azabicyclo[3.2.1]octyloxy)]-pyrazine, 2-[exo-(+/-)-3-[1-azabicyclo[3.2.1]octyloxy)]pyrazine, 3-butylthio-2-(1-azabicyclo[2.2.2]ocytl-3-oxy)]pyrazine, 3-butyloxy-2-[3-±-endo-(1-azabicyclo[2.2.1]heptyloxy)]pyrazine, 3-(2-butynyloxy)-2-[6-±-endo-(1-azabicyclo[3.2.1]octyloxy)pyrazine, 3-hexylthio-2-[6-±-exo-(2-azabicyclo[2.2.1]heptyloxy)]pyrazine, 3-(3-phenylpropynylthio)-2-[2-±-exo-(7-azabicyclo[2.2.1]heptyloxy)]pyrazine, 3-(2-methylthioethoxy)-2-[3-±-exo-(1-azabicyclo[3.2.1]octyloxy)]pyrazine, 3-propargyl-2-[4-(1-azabicyclo[2.2.1]heptyloxy)]pyrazine, and 3-cyclopropylmethylthio-2-[2-±-exo-(8-azabicyclo[3.2.1loctyloxy)]pyrazine; or a pharmaceutically acceptable salt or solvate thereof.

reactant | (+/-)-3-(2-butyloxy)-4-[(+/-)-3-azabicyclo[2.2.2]octyloxy)-1,2,5-oxadiazole | CC(CC)OC1=NON=C1OC12CNC(CC1)CC2 | C13H21N3O3
reactant | 1,2,5-oxadiazole | O1N=CC=N1 | C2H2N2O
reactant | trans-3-butyloxy-4-(2-dimethylaminocyclopentyloxy)-1,2,5-oxadiazole | C(CCC)OC1=NON=C1O[C@H]1[C@@H](CCC1)N(C)C | C13H23N3O3
reactant | 3-butylthio-4-(3-azetidinyloxy)-1,2,5-oxadiazole | C(CCC)SC1=NON=C1OC1CNC1 | C9H15N3O2S
reactant | (+/-)-3-(2-butyloxy)-4-[(+/-)-3-azabicyclo[2.2.2]octyloxy)-pyrazine | CC(CC)OC1C=NC=CN1OC12CNC(CC1)CC2 | C15H25N3O2
reactant | pyrazine | N1=CC=NC=C1 | C4H4N2
reactant | trans-3-butyloxy-4-(2-dimethylaminocyclopentyloxy)-pyrazine | C(CCC)OC1C=NC=CN1O[C@H]1[C@@H](CCC1)N(C)C | C15H27N3O2
reactant | 3-butylthio-4-(3-azetidinyloxy)-pyrazine | C(CCC)SC1C=NC=CN1OC1CNC1 | C11H19N3OS
product | 3-Butylthio-4-hydroxy-1,2,5-thiadiazole | C(CCC)SC1=NSN=C1O | C6H10N2OS2
